US07355049B2
5-(Biphenyl-3-yloxymethyl)-furan-2-carboxylic acid was prepared using general procedure A from 3-phenylphenol (available from Aldrich, Milwaukee, Wis.) and 5-chloromethylfuran-2-carboxylic acid methyl ester (available from Aldrich, Milwaukee, Wis., or from Maybridge plc, Tintagel, UK). Yield: 67 mg. Mass spectrum (ES) MH+=295.

reactant | 3-phenylphenol | C1(=CC=CC=C1)C=1C=C(C=CC1)O | C12H10O
reactant | 5-chloromethylfuran-2-carboxylic acid methyl ester | COC(=O)C=1OC(=CC1)CCl | C7H7ClO3
product | 5-(Biphenyl-3-yloxymethyl)-furan-2-carboxylic acid | C1(=CC(=CC=C1)OCC1=CC=C(O1)C(=O)O)C1=CC=CC=C1 | C18H14O4
